US07208524B2
To a stirred solution of 326 mg of ethyl [2-(2-amino-ethyl)-5-isopropylphenoxy]acetate hydorochloride and 0.452 mL of triethylamine in a mixture of 10 mL of tetrahydrofuran and 5 mL of water was added 238 mg of 5-cyano-2-methoxybenzene-sulfonyl chloride under ice-cooling, and the mixture was stirred at room temperature for 6 hours. To the reaction mixture was added 30 mL of water, and the mixture was extracted with 120 mL of ethyl acetate. The organic layer was washed with 100 mL of water, and 100 mL of brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane) to give 343 mg of ethyl [2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenoxy]acetate.

reactant | ethyl [2-(2-amino-ethyl)-5-isopropylphenoxy]acetate | 326 mg | NCCC1=C(OCC(=O)OCC)C=C(C=C1)C(C)C | C15H23NO3
reactant | triethylamine | 0.452 mL | C(C)N(CC)CC | C6H15N
reactant | 5-cyano-2-methoxybenzene-sulfonyl chloride | 238 mg | C(#N)C=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C8H6ClNO3S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | ethyl [2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenoxy]acetate | 343 mg | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(OCC(=O)OCC)C=C(C=C1)C(C)C)OC | C23H28N2O6S
